US07335658B2
6-[4-(2-CHLOROPYRIDINE-3-CARBONYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE
Following the procedure of Example 9, making variations only as required to use 2-chloropyridine-3-carboxylic acid in place of 2,5-dichlorobenzoic acid to react with 6-piperazin-1-ylpyridazine-3-carboxylic acid (2-cyclopropylethyl)amide, the title compound was obtained as a white solid (44% yield). 1H NMR (500 MHz, CDCl3) δ 8.50, 8.08, 7.99, 7.71, 7.37, 7.02, 4.05-4.13, 3.78-3.95, 3.34-3.60, 1.51, 0.71-0.80, 0.45-0.49, 0.08-0.12. MS (ES+) m/z 415 (M+1).

reactant | 2-chloropyridine-3-carboxylic acid | ClC1=NC=CC=C1C(=O)O | C6H4ClNO2
reactant | 6-piperazin-1-ylpyridazine-3-carboxylic acid (2-cyclopropylethyl)amide | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCNCC1 | C14H21N5O
product | 6-[4-(2-CHLOROPYRIDINE-3-CARBONYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(=O)C=1C(=NC=CC1)Cl | C20H23ClN6O2
